US08486979B2
3-(imidazo[1,2-a]pyridin-6-yl)-5-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method D using N′-hydroxyimidazo[1,2-a]pyridine-6-carboximidamide (Bionet) and nicotinoyl chloride, hydrochloric Acid (Aldrich). 1H NMR (300 MHz, DMSO-d6) δ 7.62-7.91 (m, 4 H), 8.20 (s, 1 H), 8.56 (dt, J=8.1, 1.9 Hz, 1 H), 8.92 (dd, J=4.7, 1.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 264 (M+H)+.

reactant | N′-hydroxyimidazo[1,2-a]pyridine-6-carboximidamide | ON=C(N)C=1C=CC=2N(C1)C=CN2 | C8H8N4O
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | hydrochloric Acid | Cl | ClH
reactant | NH3 | N | H3N
product | 3-(imidazo[1,2-a]pyridin-6-yl)-5-(pyridin-3-yl)-1,2,4-oxadiazole | N=1C=CN2C1C=CC(=C2)C2=NOC(=N2)C=2C=NC=CC2 | C14H9N5O
